US09062015B2
FS206: 2-piperazin-1-yl-4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,5-triazine
The above compound is prepared analogously to FS201 starting from 4-[4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,5-triazin-2-yl]piperazine-1-carboxylic acid tert-butyl ester. Product is the hydrochloride.

reactant | 4-[4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,5-triazin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=N1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C26H37N5O2
reactant | hydrochloride | Cl | ClH
product | 2-piperazin-1-yl-4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,5-triazine | N1(CCNCC1)C1=NC=NC(=N1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C21H29N5
